US08623889B2
Step 1: 7-chloro-3-(2-chlorophenyl)-4-iodo-2,6-naphthyridine 2-oxide
To a slurry of 2-chloro-5-((2-chlorophenyl)ethynyl)isonicotinaldehyde oxime (850 mg, 2.9 mmol) in acetonitrile (8 mL) was added iodine monochloride (1.4 g, 8.8 mmol). The reaction mixture instantly became homogeneous and was stirred at room temperature. After 15 minutes the reaction mixture was diluted with ethyl acetate (100 mL) and washed with water (100 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford an orange residue that was used in the next step without further purification (1.2 g, 98%).

reactant | 2-chloro-5-((2-chlorophenyl)ethynyl)isonicotinaldehyde oxime | 2.9 mmol, 850 mg | ClC=1C=C(C=NO)C(=CN1)C#CC1=C(C=CC=C1)Cl | C14H8Cl2N2O
reactant | iodine monochloride | 8.8 mmol, 1.4 g | ICl | ClI
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 7-chloro-3-(2-chlorophenyl)-4-iodo-2,6-naphthyridine 2-oxide | ClC1=NC=C2C(=C([N+](=CC2=C1)[O-])C1=C(C=CC=C1)Cl)I | C14H7Cl2IN2O
